US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methylsulfonylaminoethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
90 mg (0.2 mmol) of N-[(1S)-2-amino-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide is placed in 2 mL of dichloromethane, combined with 0.03 g (0.25 mmol) of triethylamine and while being cooled in the ice bath combined with 0.03 g (0.23 mmol) of methanesulfonic acid chloride. Then the mixture is heated to ambient temperature and stirred for 24 hours. Then the solvent is eliminated in vacuo and the residue purified by chromatography on silica gel (gradient: dichloromethane/methanol=100:5). Yield: 27 mg (25%); Rf value: 0.20 (silica gel; dichloromethane/methanol=95:5); C23H26ClN5O4S (504.01); mass spectrum: (M+H)+=504/506 (chlorine isotope).

reactant | N-[(1S)-2-amino-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | 0.2 mmol, 90 mg | NC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C22H24ClN5O2
reactant | triethylamine | 0.25 mmol, 0.03 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid chloride | 0.23 mmol, 0.03 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methylsulfonylaminoethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC1=CC2=C(NC(=N2)[C@H](CNS(=O)(=O)C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C23H26ClN5O4S
